2180-09-20 06:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2180-9-19**] 08:00 AM
 URINE CULTURE - At [**2180-9-19**] 09:50 AM
 ULTRASOUND - At [**2180-9-19**] 11:11 AM
   Abdominal US.
 TRANSTHORACIC ECHO - At [**2180-9-19**] 01:30 PM
   Glucose stabilized
   Diuresed well to 80 IV lasix
   ECHO: Wide open TR on ECHO
   Remained intubated, but arousable and interactive
   Additional history gained from [**Hospital1 167**]/[**Hospital1 1195**] detailed below
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2180-9-19**] 12:00 PM
   Furosemide (Lasix) - [**2180-9-20**] 12:01 AM
   Other medications:
   Changes to medical and family history:
   ECHO [**2180-8-30**] EF 50% RA severely dilated, RV mod to severe dilation RV
   pressure estimated 55-60 (greater than 60 in [**2178**])
   Pt admitted to [**Hospital1 **]/[**Hospital1 1195**] from [**6-27**]
 [**6-30**] for Congestive Heart Failure
   Exacerbation with PNA vs Bronchitis
   Pt admitted to [**Hospital1 **]/[**Hospital1 1195**] from [**8-29**]
 [**9-2**] for Congestive HF
   exacerbation / Pulm HTN
   D/C Summary listed Pulm HTN [**1-15**] to L sided failure, chronic for at
   least 1 year
   Mediastinal and Bilateral Hilar Lymphadenopathy of Unknown etiology
   Positive UA [**9-1**] and empirically started on Cipro for one week
   Baseline Cr 1.6
 2.2
   TSH 0.23
 0.38
   BNP during excerbations between 700 ([**Month (only) 93**])
 900 ([**Month (only) **])
   Recent weight gain of > 20lbs ([**Month (only) **])
   Systolic BP range 140-150s in [**Month (only) 270**]
   Denies hx of TB or exposure to TB. Claims negative PPD.
   Been in U.S. 35 years and has not traveled back to [**Country 840**]
   Review of systems is unchanged from admission except as noted below
   Review of systems: Unable to obtain
   Flowsheet Data as of  [**2180-9-20**] 06:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.3
C (97.3
   HR: 78 (73 - 103) bpm
   BP: 107/52(64) {93/41(54) - 143/88(98)} mmHg
   RR: 8 (8 - 21) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 62 Inch
    CVP: 39 (17 - 39)mmHg
   CO/CI (Fick): (67.8 L/min) / (37.9 L/min/m2)
   Mixed Venous O2% Sat: 96 - 96
   Total In:
                                                                    917 mL
                                                                    292 mL
   PO:
   TF:
                                                                     21 mL
                                                                    105 mL
   IVF:
                                                                    616 mL
                                                                     97 mL
   Blood products:
   Total out:
                                                                  1,812 mL
                                                                    840 mL
   Urine:
                                                                  1,312 mL
                                                                    840 mL
   NG:
                                                                    500 mL
   Stool:
   Drains:
   Balance:
                                                                   -895 mL
                                                                   -548 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 786 (360 - 786) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 7
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 26
   PIP: 16 cmH2O
   Plateau: 22 cmH2O
   SpO2: 100%
   ABG: ///30/
   Ve: 4.5 L/min
   Physical Examination
   Gen: Intubated on minimal sedation
   HEENT: Pupils reactive
   Resp: Rales on R, Bronchial Breath sounds on L
   Card: Tachy irregularly irregular 3/6 systolic murmur best heard over
   RLSB
   Abd: Soft, distended, BS+
   Extr: 2+ edema
   Labs / Radiology
   169 K/uL
   8.3 g/dL
   153 mg/dL
   2.9 mg/dL
   30 mEq/L
   4.4 mEq/L
   74 mg/dL
   96 mEq/L
   139 mEq/L
   26.0 %
   6.4 K/uL
        [image002.jpg]
                             [**2180-9-19**]  09:45 AM
                             [**2180-9-20**]  04:01 AM
   WBC
   4.4
   6.4
   Hct
   24.9
   26.0
   Plt
   134
   169
   Cr
   2.6
   2.9
   TropT
   0.04
   Glucose
   253
   153
   Other labs: PT / PTT / INR:38.2/54.1/4.1, CK / CKMB /
   Troponin-T:30//0.04, ALT / AST:15/28, Alk Phos / T Bili:103/1.9,
   Amylase / Lipase:96/, Albumin:3.3 g/dL, LDH:210 IU/L, Ca++:9.1 mg/dL,
   Mg++:2.7 mg/dL, PO4:8.1 mg/dL
   Assessment and Plan
   81F with PMh of DM2, CHF, CKD, AF on coumadin, hypoglycemic to FS <20
   and severe TR / Pulm HTN
   .
   # Tricuspid Regurgitation / Pulmonary HTN: Severe 4+ on echo. Chronic
   given old records from [**Hospital1 1195**]. Etiologies potentially secondary to LT
   Left sided failure, PE, OSA, CVD.
   - Cont Diuresis with Lasix 120 IV x1 and Chlorothiazide 250mg x1
   # AMS - Likely due to hypoglycemia although pt initially treated for
   hepatic encephalopathy. Pts became agitated and opened eyes with
   minimal sedation this AM. LFTs mildly elevated.
   -          Continue strict glucose control on ISS
   -          Cont sedation while intubated
   .
   # Resp Failure
 Pt remains intubated for airway protection. Heavy
   secreations
   -- weaning off sedation
   -- Mucolytics
   -- Nebs QID
   -- ABGs prn
   -- VAP bundle, chlorhexidine, HOB elevation
   -- Extubate later today potentially
   .
   # Proteus UTI - + UA from mid-[**Month (only) **]. No culture data available from
   that admission.
   -- f/u culture sensitivites
   -- Cont cipro and start Ceftriaxone while awaiting sensitivies
   .
   # Chronic Hep B ?- Not listed on problem list as outpatient. Has
   ascites seen on abdominal CT.
   -- f/u hep serologies, HBV DNA
   -- consider paracentesis
   .
   # DM
   -- SSI
   -- QID FS
   .
   # Atrial Fib
   -- coumadin for target [**1-16**] INR, will give only 1mg daily as slightly
   supratherapeutic currently
   -- Increased Metoprolol from 25 to 50 [**Hospital1 **]
   .
   # Acute on CKD
  Baseline Cr 1.6-2.2 from OSH. Cr 2.9 now from 2.6 in
   setting of diuresis. FeUrea borderline pre-renal
   -- trending Cr
   -- renally dose meds
   .
   # Anemia - basleine appears to be ~30. Macrocytic
   -- check B12, folate, Fe studies
   -- guaiac positive in ED
   .
   # Gout
   -- continue colchicine
   .
   # FEN
   -- Cont Tube Feeds
   .
   # PPX
   -- Holding Coumadin in setting of supratherapeutic INR, PPI, holding
   bowel regimen
   .
   # Access
   -- R IJ TLC
   .
   # Code - presumed full for now. No advance directives specified on NH
   papers
   .
   # Comm:
   [**Name (NI) 1170**], [**Name (NI) **] (son) [**Telephone/Fax (1) 1171**]
   [**Known lastname 1170**], [**First Name3 (LF) 1172**], (daughter) [**Telephone/Fax (1) 1173**]
   .
   # Dispo - ICU
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2180-9-19**] 09:57 PM 20 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2180-9-19**] 08:00 AM
   20 Gauge - [**2180-9-19**] 08:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2180-09-20 11:22:00 Physician Attending Progress Note
Chief Complaint: resp failure, RV dysfunction
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - START [**2180-9-19**] 08:00 AM
 URINE CULTURE - At [**2180-9-19**] 09:50 AM
 ULTRASOUND - At [**2180-9-19**] 11:11 AM
   Abdominal US.
 TRANSTHORACIC ECHO - At [**2180-9-19**] 01:30 PM
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2180-9-19**] 12:00 PM
   Furosemide (Lasix) - [**2180-9-20**] 12:01 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-9-20**] 10:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.4
C (99.3
   HR: 110 (78 - 110) bpm
   BP: 147/70(83) {93/41(54) - 147/96(102)} mmHg
   RR: 27 (7 - 27) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 77.8 kg (admission): 78 kg
   Height: 62 Inch
   CVP: 30 (17 - 43)mmHg
   CO/CI (Fick): (67.8 L/min) / (37.9 L/min/m2)
   Mixed Venous O2% Sat: 96 - 96
   Total In:
                                                                    917 mL
                                                                    348 mL
   PO:
   TF:
                                                                     21 mL
                                                                    107 mL
   IVF:
                                                                    616 mL
                                                                    151 mL
   Blood products:
   Total out:
                                                                  1,812 mL
                                                                  1,500 mL
   Urine:
                                                                  1,312 mL
                                                                  1,500 mL
   NG:
                                                                    500 mL
   Stool:
   Drains:
   Balance:
                                                                   -895 mL
                                                                 -1,152 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 548 (360 - 786) mL
   PS : 5 cmH2O
   RR (Spontaneous): 12
   PEEP: 0 cmH2O
   FiO2: 50%
   RSBI: 26
   PIP: 6 cmH2O
   SpO2: 100%
   ABG: ///30/
   Ve: 6 L/min
   Physical Examination
   Gen: intubated ans sedated
   CV: tachycardic
   Chest: coase breath slunds bilat
   Abd: distended + BS end exp grunting
   Ext:2+ pitting edema
   Labs / Radiology
   8.3 g/dL
   169 K/uL
   153 mg/dL
   2.9 mg/dL
   30 mEq/L
   4.4 mEq/L
   74 mg/dL
   96 mEq/L
   139 mEq/L
   26.0 %
   6.4 K/uL
        [image002.jpg]
                             [**2180-9-19**]  09:45 AM
                             [**2180-9-20**]  04:01 AM
   WBC
   4.4
   6.4
   Hct
   24.9
   26.0
   Plt
   134
   169
   Cr
   2.6
   2.9
   TropT
   0.04
   Glucose
   253
   153
   Other labs: PT / PTT / INR:38.2/54.1/4.1, CK / CKMB /
   Troponin-T:30//0.04, ALT / AST:15/28, Alk Phos / T Bili:103/1.9,
   Amylase / Lipase:96/, Albumin:3.3 g/dL, LDH:210 IU/L, Ca++:9.1 mg/dL,
   Mg++:2.7 mg/dL, PO4:8.1 mg/dL
   Assessment and Plan
   81 yr old woman presents with profound pHTN and RV dysfunction
   1.       New severe pHTN and RV dysfunction: etiology unclear- DDx
   thrombo embolic
 likely would be chronic with potential subacute
   component- we are anticoagulating. Porto pulm seems less likely as her
   intrinsic liver disease seem snot severe. OSA, CVD, and primary pHTN
   are possibilities. We will try to get old records from [**Hospital1 1195**]> Aggressive
   diuresis.
   2.       Resp Failure: converted to
   3.       UTI: pyuria,
   4.       Massive ascites:
   5.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2180-9-19**] 08:00 AM
   20 Gauge - [**2180-9-19**] 08:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP: chlorhex,
   Communication:
   Code status: Full code
   Disposition :ICU
   Total time spent:
   ------ Protected Section ------
   Plan above was truncated.
   Respiratory Failure: On PSV, plan for SBT and re- evaluate for possible
   extubation- limiting issues beyond mechanics may be mental status and
   hemodynamics
   UTI- profound pyruia- Proteus prelim- switch to Ceftriazone, await
   senses
   Massive ascites- getting OSH records, may need therapeutic para prior
   to extubation
   DVT: coumadin
   Ulcer PPI
   Comm: with son
   Dispo: ICU Critically Ill 45 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 260**] [**Last Name (NamePattern1) 261**], MD
   on:[**2180-9-20**] 16:03 ------

2180-09-21 05:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2180-9-20**] 12:42 PM
   urine cx: Proteus. Added CTX
   Stool cx sent for alrge BM
   Has had some increased secretions, brown, suctioned
   Fever over night to 101.
   Allergies:
   Last dose of Antibiotics:
   Ceftriaxone - [**2180-9-20**] 03:20 PM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-9-21**] 05:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 38
C (100.4
   HR: 99 (81 - 121) bpm
   BP: 102/43(57) {93/31(52) - 147/96(105)} mmHg
   RR: 23 (11 - 29) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 77.8 kg (admission): 78 kg
   Height: 62 Inch
    CVP: 10 (10 - 41)mmHg
   Total In:
                                                                  1,102 mL
                                                                    328 mL
   PO:
   TF:
                                                                    377 mL
                                                                    177 mL
   IVF:
                                                                    485 mL
                                                                     76 mL
   Blood products:
   Total out:
                                                                  3,900 mL
                                                                    780 mL
   Urine:
                                                                  3,900 mL
                                                                    780 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,798 mL
                                                                   -452 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 352 (287 - 548) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 103
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: ///32/
   Ve: 5.6 L/min
   Physical Examination
   Gen: Intubated, sedated, minimally responsive to noxious stimuli.
   HEENT: PERRL, dry mucus membranes, JVP visible at approx 4-5 cm
   Resp: Mild diffuse rhonchi and transmitted upper airway sounds,
   bronchial breath sounds > on L
   Card: Tachy irregularly irregular 3/6 systolic murmur best heard over
   RSB, increases on inspiration
   Abd: Soft, mildly distended, tymapnetic superiorly, dull inferiorly ,
   BS+
   Extr: 1+ edema at feet, DP 1+, RP 1+
   NEURO: Dolls eye reflex intact, blink in response to threat,
   hyporeflexive (0) bilaterally at biceps and patellar tendons, toes
   slightly downgoing bilaterally.
   Labs / Radiology
   136 K/uL
   8.1 g/dL
   238 mg/dL
   3.0 mg/dL
   32 mEq/L
   3.8 mEq/L
   82 mg/dL
   94 mEq/L
   138 mEq/L
   25.6 %
   7.1 K/uL
        [image002.jpg]
                             [**2180-9-19**]  09:45 AM
                             [**2180-9-20**]  04:01 AM
                             [**2180-9-21**]  01:48 AM
   WBC
   4.4
   6.4
   7.1
   Hct
   24.9
   26.0
   25.6
   Plt
   134
   169
   136
   Cr
   2.6
   2.9
   3.0
   TropT
   0.04
   Glucose
   [**Telephone/Fax (3) 1215**]
   Other labs: PT / PTT / INR:37.0/57.0/4.0, CK / CKMB /
   Troponin-T:30//0.04, ALT / AST:14/24, Alk Phos / T Bili:97/1.7, Amylase
   / Lipase:96/, Albumin:3.3 g/dL, LDH:202 IU/L, Ca++:8.8 mg/dL, Mg++:2.6
   mg/dL, PO4:6.5 mg/dL
   CXR: severe cardiomegally, no sig change from yesterday, L
   hemidiaphragm less visable than yesterday
   Assessment and Plan
   81F with PMh of DM2, CHF, CKD, AF on coumadin, hypoglycemic to FS <20
   and severe TR / Pulm HTN
   .
   # Tricuspid Regurgitation / Pulmonary HTN: Severe 4+ on echo. Chronic
   given old records from [**Hospital1 1195**]. Etiologies potentially secondary to Left
   sided failure, PE, OSA, CVD.  Initial thought was that her worsening
   CHF may have led to worsening renal function and prolonged halflife of
   insulin leading to her hypoglycemia. Was diuresed aggressively
   yesterday, with > -2L balance. Now lung sounds without rales
   anteriorly/laterally, and CXR without significant effusion or signs of
   pulmonary edema
   - Keep fluid balance even  today given worsening creatinine.
   - Consider restarting her home doses of lasix tomorrow
   # AMS - Likely due to hypoglycemia although pt initially treated for
   hepatic encephalopathy, though CT-abdomen shows normal appearing liver
   and LFTs are normal. Had negative HD CT.
   -          Continue strict glucose control on ISS, continues to have BS
   > 200, tighten ISS today
   -          Attempt to wean sedation off today for possible extubation
   .
   # Resp Failure
 Pt was intubated for airway protection and remained
   intubated yesterday [**1-15**] heavy secretions. Secretions continued
   overnight, though somewhat less, and last RSBI of 103. Pt comfortable
   on PSV 5/5 and can possibly be extubated today. However is now febrile
   over night, now with a sputum gram stain showing 2+ GNR and 2+ GPC in
   p/c/c. Pt also with a UTI that was not appropriately covered until
   yesterday, which could also be the source of fever. Will hold off on
   treatment until sputum cx or CXR show evidence of PNA.
   -- weaning off sedation
   -- Mucolytics
   -- Nebs QID
   -- VAP bundle, chlorhexidine, HOB elevation
   -- Extubate later today
   .
   # Fever:  possible etiologies include PNA, UTI/Pyelonephritis.
   Currently treating her UTI which seems to be more likely source. If
   continues to be febrile or has new findings on CXR or resp status, will
   consider coverage for PNA.
   # Proteus UTI
 Had positive UA and started on Cipro, speciation showed
   proteus.
   -- Cont cipro and start Ceftriaxone while awaiting sensitivies
   .
   # Chronic Hep B ?- Not listed on problem list as outpatient. Has
   ascites seen on abdominal CT, but normal liver.
   -- f/u hep serologies, HBV DNA
   -- consider paracentesis
   .
   # DM
   -- SSI , tightened up today for BS in the 200s
   -- QID FS
   .
   # Atrial Fib: target [**1-16**] INR, was slightly supratherapeutic yesterday,
   given 1mg Coumadin, now INR = 4, will hold coumadin today, consider
   restarting tomorrow.
   -- Increased Metoprolol from 25 to 50 [**Hospital1 **]
   .
   # Acute on CKD
  Baseline Cr 1.6-2.2 from OSH. Cr 3.0 up from 2.9, 2.6
   in setting of diuresis. FeUrea borderline pre-renal
   - repeat urine lytes (use Urea to calculate FeNa)
   -- trending Cr
   -- renally dose meds
   .
   # Anemia - basleine appears to be ~30. Macrocytic
   -- check B12, folate, Fe studies
   -- guaiac positive in ED
   .
   # Gout
   -- continue colchicine
   .
   # FEN
   -- Cont Tube Feeds
   .
   # PPX
   -- Holding Coumadin in setting of supratherapeutic INR, PPI, holding
   bowel regimen
   .
   # Access
   -- R IJ TLC
   .
   # Code - presumed full for now. No advance directives specified on NH
   papers
   .
   # Comm:
   [**Name (NI) 1170**], [**Name (NI) **] (son) [**Telephone/Fax (1) 1171**]
   [**Known lastname 1170**], [**First Name3 (LF) 1172**], (daughter) [**Telephone/Fax (1) 1173**]
   .
   # Dispo - ICU
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2180-9-21**] 02:58 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2180-9-19**] 08:00 AM
   20 Gauge - [**2180-9-19**] 08:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2180-09-21 10:59:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 SPUTUM CULTURE - At [**2180-9-20**] 12:42 PM
 STOOL CULTURE - At [**2180-9-20**] 12:42 PM
 URINE CULTURE - At [**2180-9-20**] 08:45 PM
   Fever to 101
   Allergies:
   Last dose of Antibiotics:
   Ceftriaxone - [**2180-9-20**] 03:20 PM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-9-21**] 10:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 38.1
C (100.6
   HR: 105 (87 - 121) bpm
   BP: 124/53(70) {93/31(52) - 142/80(105)} mmHg
   RR: 23 (14 - 29) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 77.8 kg (admission): 78 kg
   Height: 62 Inch
   CVP: 14 (10 - 37)mmHg
   Total In:
                                                                  1,102 mL
                                                                    541 mL
   PO:
   TF:
                                                                    377 mL
                                                                    325 mL
   IVF:
                                                                    485 mL
                                                                    141 mL
   Blood products:
   Total out:
                                                                  3,900 mL
                                                                  1,350 mL
   Urine:
                                                                  3,900 mL
                                                                  1,350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,798 mL
                                                                   -809 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 410 (287 - 419) mL
   PS : 5 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 103
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///32/
   Ve: 7.4 L/min
   Physical Examination
   Gen: intubated ans sedated
   CV: tachycardic
   Chest: coase breath slunds bilat
   Abd: distended + BS end exp grunting
   Ext:2+ pitting edema
   Neurologic: Responds to tactile stim only
   Labs / Radiology
   8.1 g/dL
   136 K/uL
   238 mg/dL
   3.0 mg/dL
   32 mEq/L
   3.8 mEq/L
   82 mg/dL
   94 mEq/L
   138 mEq/L
   25.6 %
   7.1 K/uL
        [image002.jpg]
                             [**2180-9-19**]  09:45 AM
                             [**2180-9-20**]  04:01 AM
                             [**2180-9-21**]  01:48 AM
   WBC
   4.4
   6.4
   7.1
   Hct
   24.9
   26.0
   25.6
   Plt
   134
   169
   136
   Cr
   2.6
   2.9
   3.0
   TropT
   0.04
   Glucose
   [**Telephone/Fax (3) 1215**]
   Other labs: PT / PTT / INR:37.0/57.0/4.0, CK / CKMB /
   Troponin-T:30//0.04, ALT / AST:14/24, Alk Phos / T Bili:97/1.7, Amylase
   / Lipase:96/, Albumin:3.3 g/dL, LDH:202 IU/L, Ca++:8.8 mg/dL, Mg++:2.6
   mg/dL, PO4:6.5 mg/dL
   UA: 62 RBC 50 WBC
   Urine Cx > 100K Proteus
   Sputum: 2+ GPR 2+ GPC
   C diff negative
   Assessment and Plan
   81 yr old woman presents with profound pHTN and RV dysfunction
   1.    Severe pHTN and RV dysfunction: OSH records indicate this is a
   chronic issue
 we planned for 2L diuresis but she ended up 4L
   negative- CVP down to teen range
 still has stable BP but Cr up and HR
   90-100 suggesting she is at her limit. We will run even and cons\[**Doctor Last Name **]
   bolus as need.
   2.       Resp Failure: converted to  PSV 5/5
 issue limiting
   extubation are poor mental status, poor cuff leak. Stop Versed, recheck
   cuff leak
   3.       UTI: Proteus- was Cipro resistant so just got CTX yesterday as
   likely explanation for persistent fevers, conutinue Ceftraizone for 10
   days, if still febrile in 72 hrs image.
   4.       Massive ascites: chronically tapped per OSH- with alternate
   explanation for forever [**Male First Name (un) 344**]
t feel acute need to tap
 but low
   threshold.
   5.       ARF: Cr up today- in setting of aggressive diuresis, run even,
   trend UOP and renally dose all meds
   Remaining issues as per Housestaff notes.
   ICU Care
   Nutrition: Nutren Renal (Full) - [**2180-9-21**] 02:58 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2180-9-19**] 08:00 AM
   20 Gauge - [**2180-9-19**] 08:00 AM
   Prophylaxis:
   DVT: coumadin hekd for high INR
   Stress ulcer: PPI
   VAP: chlorhex,
   Communication:  son [**Name (NI) **]
   [**Name (NI) 129**] status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2180-09-22 05:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Calcium repleted with Ca Gluconate overnight
   Poor Glucose control to >400.
   Small ammounts of BRBPR visualized in rectal tube, hct stable
 BLOOD CULTURED - At [**2180-9-21**] 09:38 PM
   2 sets of blood cultures sent (1 set venipuncture and 1 set from
   central line).
 FEVER - 101.3
F - [**2180-9-21**] 10:00 PM
   CVP and BP lower, thus pt given 500cc/4hrs, then repleted a K 3.2 with
   40mEQ / 500ccNS
   Allergies:
   Last dose of Antibiotics:
   Ceftriaxone - [**2180-9-21**] 04:00 PM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2180-9-21**] 12:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-9-22**] 05:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.1
C (98.8
   HR: 108 (88 - 117) bpm
   BP: 119/51(68) {89/32(45) - 152/69(85)} mmHg
   RR: 18 (15 - 32) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 73 kg (admission): 78 kg
   Height: 62 Inch
    CVP: 15 (10 - 18)mmHg
   Total In:
                                                                  1,471 mL
                                                                    783 mL
   PO:
   TF:
                                                                    720 mL
                                                                    175 mL
   IVF:
                                                                    426 mL
                                                                    519 mL
   Blood products:
   Total out:
                                                                  2,743 mL
                                                                    430 mL
   Urine:
                                                                  2,743 mL
                                                                    430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,272 mL
                                                                    353 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 212 (212 - 417) mL
   PS : 0 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 21 cmH2O
   Plateau: 18 cmH2O
   SpO2: 97%
   ABG: 7.47/48/99.[**Numeric Identifier 433**]/34/9
   Ve: 8.3 L/min
   PaO2 / FiO2: 248
   Physical Examination
   Gen: Intubated, sedated, responsive to voice, shook her head
   question of
[**Doctor Last Name 1297**]?
   HEENT: PERRL, dry mucus membranes, JVP visible at approx 4-5 cm
   Resp: Mild diffuse rhonchi and transmitted upper airway sounds,
   bronchial breath sounds > on L
   Card: Tachy irregularly irregular 2/6 systolic murmur best heard over
   RSB, increases on inspiration
   Abd: Soft, mildly distended, tymapnetic superiorly, dull inferiorly ,
   BS+
   Extr: 1+ edema at feet, DP 1+, RP 1+
   NEURO: Dolls eye reflex intact, blink in response to threat,
   hyporeflexive (0) bilaterally at patellar and and 2+ at biceps
   tendons, toes slightly downgoing bilaterally.
   Labs / Radiology
   122 K/uL
   7.8 g/dL
   270 mg/dL
   2.7 mg/dL
   34 mEq/L
   3.2 mEq/L
   76 mg/dL
   98 mEq/L
   142 mEq/L
   24.0 %
   5.9 K/uL
        [image002.jpg]
                             [**2180-9-19**]  09:45 AM
                             [**2180-9-20**]  04:01 AM
                             [**2180-9-21**]  01:48 AM
                             [**2180-9-21**]  02:56 PM
                             [**2180-9-21**]  08:37 PM
                            [**2180-9-22**]  02:04 AM
   WBC
   4.4
   6.4
   7.1
   5.9
   Hct
   24.9
   26.0
   25.6
   24.3
   24.0
   Plt
   134
   169
   136
   122
   Cr
   2.6
   2.9
   3.0
   2.7
   TropT
   0.04
   TCO2
   36
   Glucose
   [**Telephone/Fax (3) 1253**]70
   Other labs: PT / PTT / INR:23.6/51.3/2.3, CK / CKMB /
   Troponin-T:30//0.04, ALT / AST:14/24, Alk Phos / T Bili:97/1.7, Amylase
   / Lipase:96/, Lactic Acid:1.2 mmol/L, Albumin:3.3 g/dL, LDH:202 IU/L,
   Ca++:8.6 mg/dL, Mg++:2.5 mg/dL, PO4:4.1 mg/dL
   CXR: no sig change, mild increase in vascular markings
   Assessment and Plan
   81F with PMh of DM2, CHF, CKD, AF on coumadin, hypoglycemic to FS <20
   and severe TR / Pulm HTN
   .
   # Tricuspid Regurgitation / Pulmonary HTN: Severe 4+ on echo. Chronic
   given old records from [**Hospital1 1195**]. Etiologies potentially secondary to Left
   sided failure, PE, OSA, CVD.  Initial thought was that her worsening
   CHF may have led to worsening renal function and prolonged halflife of
   insulin leading to her hypoglycemia. Was diuresed aggressively 2 days
   ago, with > -2L balance, auto-diuresed yesterday approx -1L. Now lung
   sounds without rales anteriorly/laterally, and CXR without significant
   effusion or signs of pulmonary edema.
   - Keep fluid balance even  today as pt seems to be euvolemic
   - Trend urine output today, fluid balance, lung exam, CXR and if
   evidence of fluid overload, begin adding back her home doses of lasix.
   # AMS - Likely due to hypoglycemia. Possibly [**1-15**] to worsening CHF as
   above, or infection as pt had +UA and ?PNA on CXR. CT-abdomen shows
   normal appearing liver and LFTs are normal. Had negative HD CT as
   well.  UTI treated as below.  Pt seen by family today and per family
   she is awake, alert, and has normal mentation.
   -          Continue strict glucose control on ISS
   -          Sedation has been weaned off, but 1mg Versed restarted for
   some agitation.
   .
   # Resp
 Pt was intubated for airway protection and remained intubated
   yesterday [**1-15**] heavy secretions and RSBI of 103. Secretions continued
   overnight, pt placed back on CMV. Today, was weaned slowly on vent to
   PSV of [**11-20**] and doing well. Sputum gram stain had 2+ GNR and 2+ GPC in
   p/c/c, but cx grew out only respiratory flora. Pt had fever last night,
   but has defnite source with a UTI that was not appropriately covered
   until yesterday.
   -- weaning off sedation
   -- Mucolytics
   -- Nebs QID
   -- VAP bundle, chlorhexidine, HOB elevation
   -- Extubate later today if continues to improve, or tomorrow
   .
   # Fever:  possible etiologies include PNA, UTI/Pyelonephritis.
   Currently treating her UTI which seems to be more likely source. If
   continues to be febrile or has new findings on CXR or resp status, will
   consider coverage for PNA.
   # Proteus UTI
 Had positive UA and started on Cipro, speciation showed
   proteus.
   -- Cont cipro and start Ceftriaxone while awaiting sensitivies
   .
   # Chronic Hep B ?- Not listed on problem list as outpatient. Has
   ascites seen on abdominal CT, but normal liver.
   -- f/u hep serologies, HBV DNA
   -- consider paracentesis
   .
   # DM
   -- SSI , Glargine added yesterday at 10 QHS, but continued to have high
   BS.
   -- Changed to Glargine 18 QHS, and tighter ISS.
   -- QID FS
   .
   # Atrial Fib: target [**1-16**] INR, was slightly supratherapeutic yesterday,
   Coumadin held yesterday for INR 4.0, today 2.3, will give 1mg QOD.
   -- Increased Metoprolol from 50 [**Hospital1 **] to 50 TID.
   .
   # Acute on CKD
  Baseline Cr 1.6-2.2 from OSH. Cr 3.0 at peak, now
   decreased slightly to 2.7 in setting of diuresis. FeNa on admission
   suggested pre-renal, however, FeUrea  now suggests renal etiology. This
   may represent renal injury [**1-15**] to the initial pre-renal failure.
   -- trending Cr
   -- renally dose meds
   .
   # Anemia - basleine appears to be ~30. Macrocytic. Pt had one ep
   -- check B12, folate, Fe studies
   -- guaiac stools
   .
   # Gout
   -- continue colchicine
   .
   # FEN
   -- Cont Tube Feeds
   .
   # PPX
   -- restarted coumadin, PPI, holding bowel regimen
   .
   # Access
   -- R IJ TLC
   .
   # Code - presumed full for now. No advance directives specified on NH
   papers
   .
   # Comm:
   [**Name (NI) 1170**], [**Name (NI) **] (son) [**Telephone/Fax (1) 1171**]
   [**Known lastname 1170**], [**First Name3 (LF) 1172**], (daughter) [**Telephone/Fax (1) 1173**]
   .
   # Dispo - ICU
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2180-9-22**] 12:59 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2180-9-19**] 08:00 AM
   20 Gauge - [**2180-9-19**] 08:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2180-09-22 11:16:00 Physician Attending Progress Note
Chief Complaint: resp failure, pHTN
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2180-9-21**] 09:38 PM
   2 sets of blood cultures sent (1 set venipuncture and 1 set from
   central line).
 FEVER - 101.3
F - [**2180-9-21**] 10:00 PM
   Fluid bolus
   Allergies:
   Last dose of Antibiotics:
   Ceftriaxone - [**2180-9-21**] 04:00 PM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2180-9-21**] 12:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2180-9-22**] 11:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37
C (98.6
   HR: 115 (88 - 123) bpm
   BP: 135/50(70) {89/32(45) - 152/69(85)} mmHg
   RR: 17 (15 - 32) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 73 kg (admission): 78 kg
   Height: 62 Inch
   CVP: 20 (10 - 20)mmHg
   Total In:
                                                                  1,471 mL
                                                                  1,482 mL
   PO:
   TF:
                                                                    720 mL
                                                                    337 mL
   IVF:
                                                                    426 mL
                                                                  1,026 mL
   Blood products:
   Total out:
                                                                  2,743 mL
                                                                    920 mL
   Urine:
                                                                  2,743 mL
                                                                    920 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,272 mL
                                                                    562 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 212 (212 - 417) mL
   PS : 0 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 20 cmH2O
   Plateau: 20 cmH2O
   SpO2: 99%
   ABG: 7.47/48/99.[**Numeric Identifier 433**]/34/9
   Ve: 6.3 L/min
   PaO2 / FiO2: 248
   Physical Examination
   Gen: intubated and sedated
   CV: tachycardic
   Chest: coase breath sounds bilat
   Abd: distended + BS end exp grunting
   Ext:2+ pitting edema
   Neurologic: Responds to tactile stim only
   Labs / Radiology
   7.8 g/dL
   122 K/uL
   270 mg/dL
   2.7 mg/dL
   34 mEq/L
   3.2 mEq/L
   76 mg/dL
   98 mEq/L
   142 mEq/L
   24.0 %
   5.9 K/uL
        [image002.jpg]
                             [**2180-9-19**]  09:45 AM
                             [**2180-9-20**]  04:01 AM
                             [**2180-9-21**]  01:48 AM
                             [**2180-9-21**]  02:56 PM
                             [**2180-9-21**]  08:37 PM
                            [**2180-9-22**]  02:04 AM
   WBC
   4.4
   6.4
   7.1
   5.9
   Hct
   24.9
   26.0
   25.6
   24.3
   24.0
   Plt
   134
   169
   136
   122
   Cr
   2.6
   2.9
   3.0
   2.7
   TropT
   0.04
   TCO2
   36
   Glucose
   [**Telephone/Fax (3) 1253**]70
   Other labs: PT / PTT / INR:23.6/51.3/2.3, CK / CKMB /
   Troponin-T:30//0.04, ALT / AST:14/24, Alk Phos / T Bili:97/1.7, Amylase
   / Lipase:96/, Lactic Acid:1.2 mmol/L, Albumin:3.3 g/dL, LDH:202 IU/L,
   Ca++:8.6 mg/dL, Mg++:2.5 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   81 yr old woman presents with profound pHTN and RV dysfunction
   1.    Severe pHTN and RV dysfunction: OSH records indicate this is a
   chronic issue
 we diuresed aggressively then held even yesterday, CVP
   stable, HR more elevated but agitated
 will run even to only slightly
   negative
   2.       Resp Failure: Got resp distress after several hours on [**4-17**]
   put back on AC yesterday and stable oxygenation and ventilation. Hope
   to convert back to  PSV and reattemots weaning.
   3.       UTI: Proteus- Day [**2-21**] - CTX yesterday as likely explanation
   for persistent fevers still febrile this weekend -
   4.       Massive ascites: chronically tapped per OSH- with alternate
   explanation for forever [**Male First Name (un) 344**]
t feel acute need to tap
 but low
   threshold.
   5.       ARF: Cr down today- in setting of diuresis, run even to 500
   negative, trend UOP and renally dose all meds
   Remaining issues as per Housestaff notes.
   ICU Care
   Nutrition: Nutren Renal (Full) - [**2180-9-22**] 12:59 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2180-9-19**] 08:00 AM
   Prophylaxis:
   DVT: coumadin
   Stress ulcer: PPI
   VAP: chlorhex, HOB
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2180-09-23 06:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Glargine increased from 10 to 18 QHS. ISS tightened up. FS overnight
   240s -260s.
   Continues to have tan secretions but decreased in amount overnight.
   Holding TF this am for possible extubation
   Afebrile
   Small amount of BRBPR found when rolled. No BMs. HCT stable.
   Weaned to PSV 5/5 this am
   Allergies:
   Last dose of Antibiotics:
   Ceftriaxone - [**2180-9-22**] 04:27 PM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2180-9-22**] 12:26 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-9-23**] 06:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.1
C (98.7
   HR: 97 (87 - 123) bpm
   BP: 136/81(93) {108/46(60) - 153/95(108)} mmHg
   RR: 32 (16 - 32) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 73 kg (admission): 78 kg
   Height: 62 Inch
    CVP: 20 (12 - 27)mmHg
   Total In:
                                                                  2,221 mL
                                                                    271 mL
   PO:
   TF:
                                                                    720 mL
                                                                    198 mL
   IVF:
                                                                  1,231 mL
                                                                     73 mL
   Blood products:
   Total out:
                                                                  1,995 mL
                                                                    420 mL
   Urine:
                                                                  1,995 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    226 mL
                                                                   -149 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 288 (277 - 390) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 93
   PIP: 14 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: ///31/
   Ve: 6.6 L/min
   Physical Examination
   Gen: Intubated, sedated, responsive to voice.
   HEENT: PERRL, moist mucus membranes, JVP visible at approx 5-6 cm
   Resp: Bronchial breath sounds L>R with transitted uppper airway sounds
   Card: Tachy irregularly irregular 2/6 systolic murmur best heard over
   RSB, increases on inspiration, RV heave
   Abd: Soft, mildly distended, tympanic superiorly, dull inferiorly , BS+
   Extr: 1+ edema at feet, DP 1+, RP 1+, joint tenderness RUE
   NEURO: Alert, awake, [**Last Name (LF) 1332**], [**First Name3 (LF) 1032**]
   Labs / Radiology
   138 K/uL
   8.2 g/dL
   230 mg/dL
   2.3 mg/dL
   31 mEq/L
   3.9 mEq/L
   71 mg/dL
   105 mEq/L
   146 mEq/L
   26.1 %
   6.6 K/uL
        [image002.jpg]
                             [**2180-9-19**]  09:45 AM
                             [**2180-9-20**]  04:01 AM
                             [**2180-9-21**]  01:48 AM
                             [**2180-9-21**]  02:56 PM
                             [**2180-9-21**]  08:37 PM
                            [**2180-9-22**]  02:04 AM
                            [**2180-9-23**]  03:54 AM
   WBC
   4.4
   6.4
   7.1
   5.9
   6.6
   Hct
   24.9
   26.0
   25.6
   24.3
   24.0
   26.1
   Plt
   134
   169
   136
   122
   138
   Cr
   2.6
   2.9
   3.0
   2.7
   2.3
   TropT
   0.04
   TCO2
   36
   Glucose
   [**Telephone/Fax (3) 1253**]70
   230
   Other labs: PT / PTT / INR:19.6/47.5/1.8, CK / CKMB /
   Troponin-T:30//0.04, ALT / AST:13/27, Alk Phos / T Bili:122/1.5,
   Amylase / Lipase:96/, Lactic Acid:1.2 mmol/L, Albumin:3.0 g/dL, LDH:202
   IU/L, Ca++:9.0 mg/dL, Mg++:2.7 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   81F with PMh of DM2, CHF, CKD, AF on coumadin, hypoglycemic to FS <20
   and severe TR / Pulm HTN
   .
   # Tricuspid Regurgitation / Pulmonary HTN: Severe 4+ on echo. Chronic
   given old records from [**Hospital1 1195**]. Etiologies potentially secondary to Left
   sided failure, PE, OSA, CVD.  Initial thought was that her worsening
   CHF may have led to worsening renal function and prolonged halflife of
   insulin leading to her hypoglycemia. Was diuresed aggressively 3 days
   ago, with > -2L balance, auto-diuresed yesterday approx -1L. Now lung
   sounds without rales anteriorly/laterally, and CXR without significant
   effusion or signs of pulmonary edema.
   - Keep fluid balance neg 500 today as pt seems to be euvolemic but
   would benefit from decreased pulmonary edema periextubation
   - Lasix 80 IV x 1 peri-extubation
   - Trend urine output today, fluid balance, lung exam, CXR and if
   evidence of fluid overload, begin adding back her home doses of lasix.
   - Will need further eval of pulm HTN as outpatient, ? further medical
   management, currently on no meds
   # AMS - Likely due to hypoglycemia. Possibly [**1-15**] to worsening CHF as
   above, or infection as pt had +UA and ?PNA on CXR. CT-abdomen shows
   normal appearing liver and LFTs are normal. Had negative HD CT as
   well.  UTI treated as below.  Pt seen by family today and per family
   she is awake, alert, and has normal mentation.
   -          Continue strict glucose control on ISS
   -          Sedation has been weaned off, but 1mg Versed restarted for
   some agitation.
   .
   # Resp
 Pt was intubated for airway protection and remained intubated
   yesterday [**1-15**] heavy secretions and RSBI of 103. RSBI today 93.
   Secretions continued overnight but were improved per nursing. Today,
   was weaned slowly on vent to PSV of [**4-17**] and doing well. Sputum gram
   stain had 2+ GNR and 2+ GPC in p/c/c, but cx grew out only respiratory
   flora. Pt Afebrile with no evidence of pulm infxn.
   -- weaning off sedation
   -- Mucolytics
   -- Nebs QID
   -- VAP bundle, chlorhexidine, HOB elevation
   -- Check ABG and extubate later today if continues to improve and if
   ABG looks good
   .
   # Fever/UTI:  Pt has Klebsiella UTI [**Last Name (un) 206**] to CTX and resistant to Cipro
   (which she was initially started on) . Currently treating her UTI which
   seems to be more likely source. If continues to be febrile or has new
   findings on CXR or resp status, will consider coverage for PNA.
   - Ceftriaxone Day [**3-23**]. Could consider change to Bactrim if needs PO
   meds as outpt
   # Chronic Hep B - Not listed on problem list as outpatient. Has ascites
   seen on abdominal CT, but normal liver.
   -- f/u hep serologies, HBV DNA neg
   -- consider paracentesis
   .
   # DM
   -- SSI , Glargine increased to 18 units QHS with tighter sliding scale
   -- FSBS 240s-260s but holding TF trhis am since planned extubation.
   -- QID FS, continue current SS and glargine for now
   .
   # Atrial Fib: target [**1-16**] INR, Coumadin restarted yesterday as outpt
   regimen when INR 2.3, 1.8 today.
   n        Increased Metoprolol from 50 TID to 50 QID for better rate
   control
   n        - Follow INR, Coumadin restarted.
   .
   # Acute on CKD
  Baseline Cr 1.6-2.2 from OSH. Cr 3.0 at peak, now
   decreased to 2.3. FENA on admission suggested pre-renal, however,
   FeUrea  now suggests renal etiology. This may represent renal injury
   [**1-15**] to the initial pre-renal failure.
   -- trending Cr, improving steadily
   -- renally dose meds
   .
   # Anemia - baslilne appears to be ~30. Macrocytic.
   -- check B12, folate, Fe studies. B12, folate normal, iron borderline
   low
   -- guaiac stools, which were trace positive
   .
   # Gout/RUE pain
   n        continue colchicines
   n         will readdress with family whether this is chronic issue,
   whether arm pain new once awake, ? needs further treatment but would
   want to avoid NSAid given renal failure
   .
   # FEN
   -- holding tube feeds this am for planned extubation
   .
   # PPX
   -- restarted coumadin, PPI, holding bowel regimen
   .
   # Access
   -- R IJ TLC. Will need D/C prior to discharge but will keep for now
   pending instability surrounding extubation
   .
   # Code - presumed full for now. No advance directives specified on NH
   papers. Will d/w family
   .
   # Comm:
   [**Name (NI) 1170**], [**Name (NI) **] (son) [**Telephone/Fax (1) 1171**]
   [**Known lastname 1170**], [**First Name3 (LF) 1172**], (daughter) [**Telephone/Fax (1) 1173**]
   .
   # Dispo - ICU
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2180-9-22**] 04:46 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2180-9-19**] 08:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU Attending Addendum:
   On this day I examined the patient and was present for the key portions
   of the services provided.  I have reviewed Dr [**Last Name (STitle) 984**]
s note above and I
   agree with the findings and plan of care.  I would add/emphasize the
   following: The patient this morning seemed to be doing well on PSV of
   [**4-17**] with RR in 20s and good ABG
s (pH 7.45).  Thus she was extubated
   and so far seems to be doing well.  She has severe right heart failure
   due to her pulm htn so we should discuss her care with her [**Hospital1 **]
   caregivers to see if  her pulm htn has been worked upt and if she was
   previously tried on vasodilator Rx such as sidenafil.  She also seems
   to have gout and is having right wrist, elbow, and shoulder movement
   pain, which we would like to talk to her about with the help of her
   family as interpreters,  once she is stably extubated.   We will keep
   her mildly neg regarding I/O and will continue Rx for her Proteus UTI
   with ceftriaxone.
   [**First Name8 (NamePattern2) 548**] [**Last Name (NamePattern1) 549**], MD
   35 min spent in the care of this critically ill woman.
   ------ Protected Section Addendum Entered By:[**Name (NI) 548**] [**Last Name (NamePattern1) 549**], MD
   on:[**2180-9-23**] 17:21 ------

2180-09-24 05:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Extubated around 1pm
   Seemed to have right arm pain/discomfort, ? gout
   Upon later exam, seemed comfortable, singing
   Metoprolol increased to QID
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2180-9-22**] 04:27 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2180-9-23**] 12:04 PM
   Coumadin (Warfarin) - [**2180-9-23**] 02:00 PM
   Furosemide (Lasix) - [**2180-9-23**] 02:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-9-24**] 05:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.2
C (99
   HR: 108 (88 - 117) bpm
   BP: 132/61(79) {107/46(65) - 165/94(111)} mmHg
   RR: 20 (16 - 34) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 73 kg (admission): 78 kg
   Height: 62 Inch
    CVP: 28 (15 - 59)mmHg
   Total In:
                                                                    579 mL
                                                                     56 mL
   PO:
   TF:
                                                                    242 mL
   IVF:
                                                                    253 mL
                                                                     56 mL
   Blood products:
   Total out:
                                                                  2,090 mL
                                                                    270 mL
   Urine:
                                                                  2,090 mL
                                                                    270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,511 mL
                                                                   -214 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 231 (231 - 285) mL
   PS : 5 cmH2O
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 93
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: 7.45/49/108/32/8
   Ve: 7 L/min
   PaO2 / FiO2: 270
   Physical Examination
   Gen: Intubated, sedated, responsive to voice.
   HEENT: PERRL, moist mucus membranes, JVP visible at approx 5-6 cm
   Resp: Bronchial breath sounds L>R with transitted uppper airway sounds
   Card: Tachy irregularly irregular 2/6 systolic murmur best heard over
   RSB, increases on inspiration, RV heave
   Abd: Soft, mildly distended, tympanic superiorly, dull inferiorly , BS+
   Extr: 1+ edema at feet, DP 1+, RP 1+, joint tenderness RUE
   NEURO: Alert, awake, [**Last Name (LF) 1332**], [**First Name3 (LF) 1032**]
   Labs / Radiology
   138 K/uL
   8.5 g/dL
   83 mg/dL
   2.4 mg/dL
   32 mEq/L
   4.2 mEq/L
   84 mg/dL
   107 mEq/L
   151 mEq/L
   27.7 %
   5.0 K/uL
        [image002.jpg]
                             [**2180-9-19**]  09:45 AM
                             [**2180-9-20**]  04:01 AM
                             [**2180-9-21**]  01:48 AM
                             [**2180-9-21**]  02:56 PM
                             [**2180-9-21**]  08:37 PM
                            [**2180-9-22**]  02:04 AM
                            [**2180-9-23**]  03:54 AM
                            [**2180-9-23**]  12:45 PM
                            [**2180-9-24**]  03:30 AM
   WBC
   4.4
   6.4
   7.1
   5.9
   6.6
   5.0
   Hct
   24.9
   26.0
   25.6
   24.3
   24.0
   26.1
   27.7
   Plt
   134
   169
   136
   122
   138
   138
   Cr
   2.6
   2.9
   3.0
   2.7
   2.3
   2.4
   TropT
   0.04
   TCO2
   36
   35
   Glucose
   [**Telephone/Fax (3) 1253**]70
   230
   83
   Other labs: PT / PTT / INR:20.1/50.0/1.9, CK / CKMB /
   Troponin-T:30//0.04, ALT / AST:13/27, Alk Phos / T Bili:122/1.5,
   Amylase / Lipase:96/, Lactic Acid:1.2 mmol/L, Albumin:3.0 g/dL, LDH:202
   IU/L, Ca++:9.4 mg/dL, Mg++:2.7 mg/dL, PO4:5.3 mg/dL
   Assessment and Plan
   81F with PMh of DM2, CHF, CKD, AF on coumadin, hypoglycemic to FS <20
   and severe TR / Pulm HTN
   .
   # Tricuspid Regurgitation / Pulmonary HTN: Severe 4+ on echo. Chronic
   given old records from [**Hospital1 1195**]. Etiologies potentially secondary to Left
   sided failure, PE, OSA, CVD.  Initial thought was that her worsening
   CHF may have led to worsening renal function and prolonged halflife of
   insulin leading to her hypoglycemia. Was diuresed aggressively 3 days
   ago, with > -2L balance, auto-diuresed yesterday approx -1L. Now lung
   sounds without rales anteriorly/laterally, and CXR without significant
   effusion or signs of pulmonary edema.
   - Keep fluid balance neg 500 today as pt seems to be euvolemic but
   would benefit from decreased pulmonary edema periextubation
   - Lasix 80 IV x 1 peri-extubation
   - Trend urine output today, fluid balance, lung exam, CXR and if
   evidence of fluid overload, begin adding back her home doses of lasix.
   - Will need further eval of pulm HTN as outpatient, ? further medical
   management, currently on no meds
   # AMS - Likely due to hypoglycemia. Possibly [**1-15**] to worsening CHF as
   above, or infection as pt had +UA and ?PNA on CXR. CT-abdomen shows
   normal appearing liver and LFTs are normal. Had negative HD CT as
   well.  UTI treated as below.  Pt seen by family today and per family
   she is awake, alert, and has normal mentation.
   -          Continue strict glucose control on ISS
   -          Sedation has been weaned off, but 1mg Versed restarted for
   some agitation.
   .
   # Resp
 Pt was intubated for airway protection and remained intubated
   yesterday [**1-15**] heavy secretions and RSBI of 103. RSBI today 93.
   Secretions continued overnight but were improved per nursing. Today,
   was weaned slowly on vent to PSV of [**4-17**] and doing well. Sputum gram
   stain had 2+ GNR and 2+ GPC in p/c/c, but cx grew out only respiratory
   flora. Pt Afebrile with no evidence of pulm infxn.
   -- weaning off sedation
   -- Mucolytics
   -- Nebs QID
   -- VAP bundle, chlorhexidine, HOB elevation
   -- Check ABG and extubate later today if continues to improve and if
   ABG looks good
   .
   # Fever/UTI:  Pt has Klebsiella UTI [**Last Name (un) 206**] to CTX and resistant to Cipro
   (which she was initially started on) . Currently treating her UTI which
   seems to be more likely source. If continues to be febrile or has new
   findings on CXR or resp status, will consider coverage for PNA.
   - Ceftriaxone Day [**3-23**]. Could consider change to Bactrim if needs PO
   meds as outpt
   # Chronic Hep B - Not listed on problem list as outpatient. Has ascites
   seen on abdominal CT, but normal liver.
   -- f/u hep serologies, HBV DNA neg
   -- consider paracentesis
   .
   # DM
   -- SSI , Glargine increased to 18 units QHS with tighter sliding scale
   -- FSBS 240s-260s but holding TF trhis am since planned extubation.
   -- QID FS, continue current SS and glargine for now
   .
   # Atrial Fib: target [**1-16**] INR, Coumadin restarted yesterday as outpt
   regimen when INR 2.3, 1.8 today.
   n        Increased Metoprolol from 50 TID to 50 QID for better rate
   control
   n        - Follow INR, Coumadin restarted.
   .
   # Acute on CKD
  Baseline Cr 1.6-2.2 from OSH. Cr 3.0 at peak, now
   decreased to 2.3. FENA on admission suggested pre-renal, however,
   FeUrea  now suggests renal etiology. This may represent renal injury
   [**1-15**] to the initial pre-renal failure.
   -- trending Cr, improving steadily
   -- renally dose meds
   .
   # Anemia - baslilne appears to be ~30. Macrocytic.
   -- check B12, folate, Fe studies. B12, folate normal, iron borderline
   low
   -- guaiac stools, which were trace positive
   .
   # Gout/RUE pain
   n        continue colchicines
   n         will readdress with family whether this is chronic issue,
   whether arm pain new once awake, ? needs further treatment but would
   want to avoid NSAid given renal failure
   .
   # FEN
   -- holding tube feeds this am for planned extubation
   .
   # PPX
   -- restarted coumadin, PPI, holding bowel regimen
   .
   # Access
   -- R IJ TLC. Will need D/C prior to discharge but will keep for now
   pending instability surrounding extubation
   .
   # Code - presumed full for now. No advance directives specified on NH
   papers. Will d/w family
   .
   # Comm:
   [**Name (NI) 1170**], [**Name (NI) **] (son) [**Telephone/Fax (1) 1171**]
   [**Known lastname 1170**], [**First Name3 (LF) 1172**], (daughter) [**Telephone/Fax (1) 1173**]
   .
   # Dispo - ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2180-9-19**] 08:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2180-09-25 06:15:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Spoke with son yesterday regarding pt's mental status. (States that she
   is currently near her mental baseline and that her right arm pain was
   chronic in nature).
   Goal of being net even, was slightly positive at +400.
   Pt started on Digoxin yesterday
   Pt FS > 400 overnight, Insulin SC 14 unit of Regular given
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2180-9-24**] 03:35 PM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2180-9-24**] 08:20 AM
   Furosemide (Lasix) - [**2180-9-24**] 12:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-9-25**] 06:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.7
C (98
   HR: 92 (83 - 112) bpm
   BP: 132/82(94) {108/63(73) - 159/98(110)} mmHg
   RR: 20 (15 - 33) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 73 kg (admission): 78 kg
   Height: 62 Inch
    CVP: 22 (11 - 61)mmHg
   Total In:
                                                                  1,679 mL
                                                                     62 mL
   PO:
                                                                    390 mL
   TF:
   IVF:
                                                                  1,289 mL
                                                                     62 mL
   Blood products:
   Total out:
                                                                  1,245 mL
                                                                    385 mL
   Urine:
                                                                  1,245 mL
                                                                    385 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    434 mL
                                                                   -323 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///34/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   129 K/uL
   7.7 g/dL
   118 mg/dL
   2.5 mg/dL
   34 mEq/L
   4.0 mEq/L
   99 mg/dL
   107 mEq/L
   149 mEq/L
   24.0 %
   4.5 K/uL
        [image002.jpg]
                             [**2180-9-20**]  04:01 AM
                             [**2180-9-21**]  01:48 AM
                             [**2180-9-21**]  02:56 PM
                             [**2180-9-21**]  08:37 PM
                            [**2180-9-22**]  02:04 AM
                            [**2180-9-23**]  03:54 AM
                            [**2180-9-23**]  12:45 PM
                            [**2180-9-24**]  03:30 AM
                            [**2180-9-24**]  02:50 PM
                            [**2180-9-25**]  03:12 AM
   WBC
   6.4
   7.1
   5.9
   6.6
   5.0
   4.5
   Hct
   26.0
   25.6
   24.3
   24.0
   26.1
   27.7
   24.0
   Plt
   169
   136
   122
   138
   138
   129
   Cr
   2.9
   3.0
   2.7
   2.3
   2.4
   2.7
   2.5
   TCO2
   36
   35
   Glucose
   153
   238
   270
   230
   83
   332
   118
   Other labs: PT / PTT / INR:29.6/48.4/3.0, CK / CKMB /
   Troponin-T:30//0.04, ALT / AST:13/27, Alk Phos / T Bili:122/1.5,
   Amylase / Lipase:96/, Lactic Acid:1.2 mmol/L, Albumin:3.0 g/dL, LDH:202
   IU/L, Ca++:8.8 mg/dL, Mg++:2.7 mg/dL, PO4:5.1 mg/dL
   Assessment and Plan
   81F with PMh of DM2, CHF, CKD, AF on coumadin, hypoglycemic to FS <20
   and severe TR / Pulm HTN
   .
   # Tricuspid Regurgitation / Pulmonary HTN: -1.5L yesterday. CVP in 20s
   (High 30s on presentation, low as 7 two days ago). CXR stable.
   - Started Torsemide 20mg and Aldactone 25mg with I/O check and a goal
   of keeping fluid balance I=O today.
   - Restarted home dose of Dig (0.125mcg) yesterday and check level in
   tomorrow.
   - Out-pt management of Pulm HTN
   # AMS
 Spoke with family who endorse that patient is at current mental
   status baseline.
   - Wean sedation.
   # Resp
 Now Extubated with continued secretions although improved. Pt
   Afebrile with no evidence of pulm infxn.
   - Cont Mucolytics
   - Cont Nebs QID
   .
   # Fever/UTI:  Pt has Proteus UTI (Cipro resistant )
   -          Ceftriaxone Day [**5-23**].
   # Hypernatremia: Na 149 this AM. Minimal PO intake, no NG in place
   currently
   - To encourage pt to increase PO intake of water.
   - Continuous D5W @ 125/hr.
   - Checking PM Na+.
   # Prior Hep B Exposure
 No HBV viral load. HBV core +.
   - No further tx
   .
   # DM: FSBS 240s-260s yesterday afternoon.FS > 400 last night.
   - SSI decreased in the morning and afternoon, increased the Glargine in
   the evening from 18 to 20 units.
   - QID FS
   .
   # Atrial Fib: target [**1-16**] INR, INR 3.0 today.
   - Cont Metoprolol 50 QID
   - Cont Coumadin, 2mg MWFSat, 1mg TuThurSun, Follow INR
   .
   # Acute on CKD
  Cr 2.5 [Base Cr 1.6-2.2 3.0 at peak
   - Trending Cr, improving steadily
   - Renally dose meds
   .
   # Anemia
 Hct 27. baslilne appears to be ~30. Macrocytic.
   - No known CAD hx, goal Hct > 21.
   - guaiac stools, which were trace positive
   .
   # Gout/RUE pain
   -  Continue colchicines
   -  Verified with family that arm pain is chronic in nature.
   -  Needs further treatment but avoiding NSAIDs given renal failure
   # FEN:  Pt
s ability to swallow effectively without coughing or choking
   has improved.  Will hold off from speech and swallow study for now.
   # PPX: Coumadin, PPI
   # Access: Will d/c RIJ and establish peripheral access.
   # Code - presumed full for now. Will d/w family
   # Communication:
   [**Name (NI) 1170**], [**Name (NI) **] (son) [**Telephone/Fax (1) 1171**]
   [**Known lastname 1170**], [**First Name3 (LF) 1172**], (daughter) [**Telephone/Fax (1) 1173**]
   .
   # Dispo
 ICU with call out to floor later today.
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM:
   On this day I examined the patient and was present for the key portions
   of the services provided. I have reviewed Dr [**First Name (STitle) 1404**]
 note above and
   agree with the findings and plan of care.  I would add the following:
   Mrs [**Known lastname 1405**] [**Known lastname 1170**] looks quite good today, with a weight that is [**6-20**] kg less
   than several days ago.  Her right heart failure appears to be in a
   compensated state, and now we will try to put her back on oral
   diuretics hoping to maintain her current weight.
   She has managed well post extubation and is eating well enough that we
   will advance her diet, and get a swallowing eval if there seems to be
   problems.  We will  add D5W to help correct her hypernatremia, and
   continue ceftriaxone for her proteus UTI.
   Her sugars have been highish, esp in the evenings, and modifications in
   her glucose control meds will be made.
   We will attempt to find out if she has had a pulm htn work up at [**Hospital1 **],
   as at the present the cause of her pulm htn is not known, and she may
   also be a candidate for pulmonary vasodilator Rx.
   She is stable enough to be called out today.
   [**First Name8 (NamePattern2) 548**] [**Last Name (NamePattern1) 549**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 548**] [**Last Name (NamePattern1) 549**], MD
   on:[**2180-9-25**] 16:40 ------